US05420275
2-Chloro-3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitropyridine
To 300 mg of 3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitro-2(1H)pyridone were added 0.5 ml of phosphorus oxychloride and two drops of DMF. The mixture was heated at 100° C. for 1 hour. After ice water was added, the mixture was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off. The residue was purified by silica gel column chromatography (eluent:ethyl acetate/hexane 1:1).

reactant | 3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitro-2(1H)pyridone | 300 mg | C(C)OC(=O)C=1C(NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)OC)=O | C18H18N2O8
reactant | phosphorus oxychloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
product | 2-Chloro-3,4-diethoxycarbonyl-6-(4-methoxyphenyl)-5-nitropyridine | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)OC | C18H17ClN2O7
